US07011838B2
Using 0.25 g of (4-bromo-2-fluorobenzyl)malononitrile, 3 ml of N,N-dimethylformamide, 0.10 g of sodium hydride (60% in oil), and 0.13 g of 1-bromo-2-fluoroethane, and according to the process described in the Production Example 1, there was obtained 0.10 g of 2-(4-bromo-2-fluorobenzyl)-2-(2-fluoroethyl)malononitrile (the present compound (67)).

reactant | (4-bromo-2-fluorobenzyl)malononitrile | 0.25 g | BrC1=CC(=C(CC(C#N)C#N)C=C1)F | C10H6BrFN2
reactant | sodium hydride | 0.10 g | [H-].[Na+]
reactant | 1-bromo-2-fluoroethane | 0.13 g | BrCCF | C2H4BrF
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-(4-bromo-2-fluorobenzyl)-2-(2-fluoroethyl)malononitrile | 0.10 g, Yield: 33% | BrC1=CC(=C(CC(C#N)(C#N)CCF)C=C1)F | C12H9BrF2N2
